US07745641B2
In a similar manner to Step 2 of Example 6, 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (40.0 mg, 0.0974 mmol) was dissolved in acetonitrile (2 mL), and the solution was treated with N,N-dimethylethylenediamine (0.043 mL, 0.39 mmol), acetic acid (0.112 mL, 1.96 mmol) and sodium triacetoxyborohydride (103 mg, 0.486 mmol). The reaction mixture was added with water and sodium carbonate to adjust the pH to 9, followed by extracting with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-chloro-7-(1-(tert-butoxycarbonyl)-5-[(2-dimethylaminoethyl)aminomethyl]indol-2-yl)isoindolinone (51.5 mg).

reactant | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.0974 mmol, 40.0 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H19ClN2O4
reactant | N,N-dimethylethylenediamine | 0.39 mmol, 0.043 mL | CN(CCN)C | C4H12N2
reactant | acetic acid | 1.96 mmol, 0.112 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.486 mmol, 103 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-chloro-7-(1-(tert-butoxycarbonyl)-5-[(2-dimethylaminoethyl)aminomethyl]indol-2-yl)isoindolinone | 51.5 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CNCCN(C)C)C(=O)OC(C)(C)C)=O | C26H31ClN4O3
